US07232821B2
Compound V: 6-Bromopyridine-2-carboxylic acid methyl ester
6-Bromopyridine-2-carboxylic acid (6.000 g) was heated in refluxing methanol (180 mL) containing conc. sulphuric acid (2 mL) for 4 hrs. The reaction mixture was then cooled to ˜0° C. and conc. ammonia (4.8 mL) was added. The resulting solution was evaporated to give a white residue. This white solid was partitioned between brine and dichloromethane (100/100 mL). After thorough shaking the organic layer was dried (magnesium sulphate) and evaporated to give a white solid.

reactant | 6-Bromopyridine-2-carboxylic acid | 6.000 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
reactant | sulphuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | 4.8 mL | N | H3N
reactant | methanol | 180 mL | CO | CH4O
product | 6-Bromopyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CC=C1)Br | C7H6BrNO2
